US05362879
A mixture of methyl 1-(3-hydroxyphenyl)-5-oxo-2-pyrrolidinecarboxylate (10.00 g, 42 mmol), LiOH.H2O (5.36 g, 128 mmol), MeOH (200 mL) and H2O (50 mL) was stirred at room temperature for about 1 hour. The MeOH was removed in vacuo and the residue diluted with H2O and 2N HCl solution to pH=1. The solid was filtered off, dried in air and suspended in hot CH3CN (200 mL). Filtration gave 1-(3-hydroxyphenyl)-5-oxo-2-pyrrolidinecarboxylic acid (8.06 g, 85%), mp 183-185° C. IR (KBr) 3600-2300 (OH), 1710 (CO2H), 1695 (CONH) cm-1. 1H NMR (DMSO-d6/CDCl3) δ2.05 to 2.15 (1H, m, pyrrolidine ring H), 2.30-2.50 (3H, m, pyrrolidine ring H), 4.58 (1H, dd, J=9 Hz, J'= 2 Hz, CHCO2H), 6.52 (1H, dd, J=8 Hz, J'=2 Hz, aromatic H), 6.81 (1H, dd, J=8 Hz, J'=2Hz, aromatic H), 7.02 to 7.08 (2H, m, aromatic H), 9.16 (1H, bs, OH); MS m/z 222 (MH+).

reactant | methyl 1-(3-hydroxyphenyl)-5-oxo-2-pyrrolidinecarboxylate | 42 mmol, 10.00 g | OC=1C=C(C=CC1)N1C(CCC1=O)C(=O)OC | C12H13NO4
reactant | LiOH.H2O | 128 mmol, 5.36 g | O[Li].O
reactant | MeOH | 200 mL | CO | CH4O
solvent | H2O | 50 mL | O | H2O
product | 1-(3-hydroxyphenyl)-5-oxo-2-pyrrolidinecarboxylic acid | 8.06 g, 85% | OC=1C=C(C=CC1)N1C(CCC1=O)C(=O)O | C11H11NO4
